US06211215B1
In substantially the same manner as in Reference Example 73, 7-(2-thienyl)-3-quinolylmethanol was reacted with thionyl chloride to obtain 3-chloromethyl-7-(2-thienyl)quinoline. The yield was 77%. Recrystallization from ethyl acetate-hexane gave colorless leaflets, 120-121° C.

reactant | 7-(2-thienyl)-3-quinolylmethanol | S1C(=CC=C1)C1=CC=C2C=C(C=NC2=C1)CO | C14H11NOS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-7-(2-thienyl)quinoline | yield was 77% | ClCC=1C=NC2=CC(=CC=C2C1)C=1SC=CC1 | C14H10ClNS
